US07163958B2
27a. ((4R)-2,2,4-Trimethyl-1,3-dioxolan-4-yl)methyl(2S)-2-(6-methoxy(2-naphthyl))propanoate
To a solution of (2S)-2-(6-methoxy(2-naphthyl))propanoic acid (naproxen, 32.2 g, 0.14 mol) and ((4S)-2,2,4-trimethyl-1,3-dioxolan-4-yl)methan-1-ol (15 g, 0.113 mol) in anhydrous dichloromethane (750 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbamide hydrochloride (EDAC) (23 g, 0.12 mol) and N,N-dimethylaminopyridine (DMAP, 7.5 g, 61 mmol) at room temperature under nitrogen atmosphere. The reaction mixture was stirred at room temperature overnight, then quenched with water. The organic layer was washed with brine, dried over sodium sulfate, filtered, and solvent was evaporated under reduced pressure. The product was purified by column chromatography over silica gel eluting with 20% ethyl acetate in hexane to give the title compound (37.5 g, 96.5% yield) as a white solid, mp 65–66° C. 1H NMR (CDCl3) δ 7.75 (d, J=8.7 Hz, 1H), 7.73 (d, J=1.2 Hz, 1H), 7.46 (dd, J=8.4 and 1.7 Hz, 1H), 7.15 (m, 2H), 4.27 (m, 1H), 4.19 (m, 2H), 4.03–3.92 (m, 2H), 3.96 (s, H), 3.69 (dd, J=8.4 and 6.0 Hz, 1H), 1.64 (d, J=7.1 Hz, 3H), 1.40 (s, 3H), 1.37 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 174.4, 157.6, 135.3, 133.7, 129.2, 128.8, 127.1, 126.1, 125.9, 119.0, 109.7, 105.5, 73.4, 66.2, 64.8, 55.2, 45.2, 26.5, 25.3, 18.4; LRMS (APIMS) m/z 362 (M+NH4)+.

reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid | 0.14 mol, 32.2 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | ((4S)-2,2,4-trimethyl-1,3-dioxolan-4-yl)methan-1-ol | 0.113 mol, 15 g | CC1(OC[C@](O1)(C)CO)C | C7H14O3
solvent | dichloromethane | 750 mL | ClCCl | CH2Cl2
product | ((4R)-2,2,4-Trimethyl-1,3-dioxolan-4-yl)methyl(2S)-2-(6-methoxy(2-naphthyl))propanoate | 37.5 g, 96.5% yield | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OC[C@@]1(OC(OC1)(C)C)C)C | C21H26O5
